US05866684
993 mg (2.16 mmol) of N-[N-(tert-butoxycarbonyl)-3-methyl-L-valyl]-3-cyclopentyl-L-alanine benzyl ester and 1.23 g (6.47 mmol) of 4-toluenesulphonic acid hydrate were dissolved in 20 ml of acetonitrile and the solution was stirred at room temperature for 2 hours. The solvent was removed by evaporation and the residue was triturated with diethyl ether and filtered off. The solid obtained was added to a mixture of 602 mg (2.16 mmol) of N-(tert-butoxycarbonyl)-2-methyl-L-phenylalanine, 338 mg (2.21 mmol) of 1-hydroxybenzotriazole, 576 mg (3 mmol) of 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride and 345 mg (3 mmol) of N-ethylmorpholine in 20 ml of dichloromethane and stirred at roomtemperature for 18 hours. The solution was extracted with 2M hydrochloric acid and saturated sodium bicarbonate solution, then dried over anhydrous magnesium sulphate and evaporated. Chromatography of the residue on silicagel using ethyl acetate/ petrol (3:7) for the elution gave 990 mg of N-[N-[N-(tert-butoxycarbonyl)-2-methyl-L-phenylalanyl]-3-methyl-L-valyl]-3-cyclopentyl-L-alanine benzyl ester as a white solid; MS: m/e 622 [M+H].

reactant | N-[N-(tert-butoxycarbonyl)-3-methyl-L-valyl]-3-cyclopentyl-L-alanine benzyl ester | 2.16 mmol, 993 mg | C(C1=CC=CC=C1)OC([C@@H](NC([C@@H](NC(=O)OC(C)(C)C)C(C)(C)C)=O)CC1CCCC1)=O | C26H40N2O5
reactant | 4-toluenesulphonic acid hydrate | 6.47 mmol, 1.23 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | N-(tert-butoxycarbonyl)-2-methyl-L-phenylalanine | 2.16 mmol, 602 mg | C(C)(C)(C)OC(=O)N[C@@H](CC1=C(C=CC=C1)C)C(=O)O | C15H21NO4
reactant | 1-hydroxybenzotriazole | 2.21 mmol, 338 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 3 mmol, 576 mg | Cl.CN(CCCN=C=NCC)C
reactant | N-ethylmorpholine | 3 mmol, 345 mg | C(C)N1CCOCC1 | C6H13NO
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | N-[N-[N-(tert-butoxycarbonyl)-2-methyl-L-phenylalanyl]-3-methyl-L-valyl]-3-cyclopentyl-L-alanine benzyl ester | 990 mg | C(C1=CC=CC=C1)OC([C@@H](NC([C@@H](NC([C@@H](NC(=O)OC(C)(C)C)CC1=C(C=CC=C1)C)=O)C(C)(C)C)=O)CC1CCCC1)=O | C36H51N3O6
